US08426447B2
A vial was charged with (S)-3-bromo-7-(2-fluoropyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine (110 mg, 0.257 mmol), DavePhos (12.16 mg, 0.031 mmol), and tris(dibenzylideneacetone)dipalladium(0) (11.79 mg, 0.013 mmol). The vessel was flushed with Ar(g), then lithium bis(trimethylsilyl)amide (772 μL, 0.772 mmol) (1.0 M solution in THF) and 2,2-dimethylmorpholine (61.8 μL, 0.515 mmol) were added in sequence. The vial was sealed and placed in a 75° C. oil bath for two hours. The mixture was diluted with saturated aq. ammonium chloride solution (20 mL) and water (10 mL). The mixture was extracted with DCM (3×20 mL), leaving behind a dark oily solid. The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was chromatographed on an 24-g Redi-Sep Gold column with 0-70% of a 90:10:1 mix of DCM/MeOH/NH4OH in DCM to give (S)-3-(2,2-dimethylmorpholino)-7-(2-fluoropyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as a yellow solid.

reactant | (S)-3-bromo-7-(2-fluoropyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | 0.257 mmol, 110 mg | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C(=NC=CC1)F | C19H12BrFN4O2
reactant | DavePhos | 0.031 mmol, 12.16 mg | CN(C)C1=CC=CC=C1C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C26H36NP
reactant | lithium bis(trimethylsilyl)amide | 0.772 mmol, 1.0 M, 772 μL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2,2-dimethylmorpholine | 0.515 mmol, 61.8 μL | CC1(CNCCO1)C | C6H13NO
solvent | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | water | 10 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.013 mmol, 11.79 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-3-(2,2-dimethylmorpholino)-7-(2-fluoropyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | CC1(OCCN(C1)C=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C(=NC=CC1)F)C | C25H24FN5O3
